US05354778
N-[[(4-chlorophenyl)amino]carbonyl]-3,4,5-trimethylbenzene sulfonamide;
N-[[(4-bromophenyl)amino]carbonyl]-3,4,5-trimethylbenzenesulfonamide; N-[[(4-trifluoromethylpheny)amino]carbonyl]-3,4,5-trimethylbenzenesulfonamide; N-[[(3,4-dichlorophenyl)amino]carbonyl]-3,4,5-trimethylbenzenesulfonamide; N-[[(4-chlorophenyl)amino]carbonyl]-3,4,5-trichlorobenzene sulfonamide; N-[[(4-chlorophenyl)amino]carbonyl]-4-amino-3,5-dichlorobenzenesulfonamide; N-[[(4-chlorophenyl)amino]-carbonyl]-4-chloro-3,5-dimethylbenzenesulfonamide; N-[[(4-chlorophenyl)amino]carbonyl]-4-(N,N,dimethylamino)3,5-dichlorobenzene-sulfonamide; N-[[(4-chlorophenyl)amino]carbonyl]-3,5-dimethyl-4-methoxybenzenesulfonamide; N-[[(4-chlorophenyl)amino]carbonyl]-3,4,5-trimethoxylbenzenesulfonamide; N-[[(4-chlorophenyl)amino]carbonyl]-3,5-dibromo-4-(N-methylamino)benzenesulfonamide; and pharmaceutically acceptable salts thereof.

reactant | N-[[(4-bromophenyl)amino]carbonyl]-3,4,5-trimethylbenzenesulfonamide | BrC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)C)C)C | C16H17BrN2O3S
reactant | N-[[(4-trifluoromethylpheny)amino]carbonyl]-3,4,5-trimethylbenzenesulfonamide | FC(C1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)C)C)C)(F)F | C17H17F3N2O3S
reactant | N-[[(3,4-dichlorophenyl)amino]carbonyl]-3,4,5-trimethylbenzenesulfonamide | ClC=1C=C(C=CC1Cl)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)C)C)C | C16H16Cl2N2O3S
reactant | N-[[(4-chlorophenyl)amino]carbonyl]-3,4,5-trichlorobenzene sulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)Cl)Cl)Cl | C13H8Cl4N2O3S
reactant | N-[[(4-chlorophenyl)amino]carbonyl]-4-amino-3,5-dichlorobenzenesulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)Cl)N)Cl | C13H10Cl3N3O3S
reactant | N-[[(4-chlorophenyl)amino]-carbonyl]-4-chloro-3,5-dimethylbenzenesulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)C)Cl)C | C15H14Cl2N2O3S
reactant | N-[[(4-chlorophenyl)amino]carbonyl]-3,5-dimethyl-4-methoxybenzenesulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)C)OC)C | C16H17ClN2O4S
reactant | N-[[(4-chlorophenyl)amino]carbonyl]-3,4,5-trimethoxylbenzenesulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)OC)OC)OC | C16H17ClN2O6S
reactant | N-[[(4-chlorophenyl)amino]carbonyl]-3,5-dibromo-4-(N-methylamino)benzenesulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)Br)NC)Br | C14H12Br2ClN3O3S
product | N-[[(4-chlorophenyl)amino]carbonyl]-3,4,5-trimethylbenzene sulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=C(C(=C1)C)C)C | C16H17ClN2O3S
